US07642264B2
N-tert-Butyl-3-{1-[6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide
The title compound was prepared from 2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine (example E.93) (0.200 g, 0.41 mmol) and commercially available 3-(tert-butylsulfamoyl)-benzeneboronic acid (0.117 g, 0.46 mmol) according to the general procedure VI. Obtained as a white solid (0.120 g, 51%). MS (ISP) 569.2 [(M+H)+].

reactant | 2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | 0.41 mmol, 0.200 g | IC=1N=CN(C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C16H8F6IN3
reactant | 3-(tert-butylsulfamoyl)-benzeneboronic acid | 0.46 mmol, 0.117 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-{1-[6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C=1N=CN(C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C26H22F6N4O2S
